US07893060B2
5-Chloro-2-[(S)-1-(hexahydro-pyrrolo[1,2-a]pyrazin-2-yl)methyl]-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidine
Prepared according to the method used in the preparation of 5-(5-chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester using (S)-octahydro-pyrrolo[1,2-a]pyrazine in place of hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester. The title compound was obtained as a white solid (34 mg, 43%).

reactant | 5-(5-chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC=1SC=2N=C(N=C(C2N1)N1CCOCC1)Cl | C21H29ClN6O3S
reactant | (S)-octahydro-pyrrolo[1,2-a]pyrazine | C1[C@H]2N(CCN1)CCC2 | C7H14N2
product | 5-Chloro-2-[(S)-1-(hexahydro-pyrrolo[1,2-a]pyrazin-2-yl)methyl]-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=N2)CN2C[C@H]1N(CC2)CCC1)N1CCOCC1 | C17H23ClN6OS
